US05053409
Synthesis of 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid (Compound No. 14)
To 500 ml of water are added 50.0 g of 2-amino-5-n-propylbenzenesulfonic acid and 6.28 g of sodium carbonate and the mixture was dissolved by heating. To the solution was added 88.13 g of bis(2-chloroethyl)amine hydrochloride and the mixture was refluxed by heating for 3 hours, And then, a suspension containing 26.25 g of sodium carbonate suspended in 63 ml of water was added thereto, and the mixture was refluxed by heating for 12 hours. The reaction mixture was condensed under reduced pressure, extracted with methyl alcohol and then methyl alcohol was removed under reduced pressure. To the residue was added 200 ml of water, and after a pH of the mixture was adjusted to about 8.0 with sodium carbonate, 500 ml of chloroform was added thereto and the mixture was stirred. Precipitated crystals were collected by filtration, washed with chloroform and dried to give 44.83 g (yield: 67.9%) of the above title product.

reactant | 2-amino-5-n-propylbenzenesulfonic acid | 50.0 g | NC1=C(C=C(C=C1)CCC)S(=O)(=O)O | C9H13NO3S
reactant | sodium carbonate | 6.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bis(2-chloroethyl)amine hydrochloride | 88.13 g | Cl.ClCCNCCCl
reactant | sodium carbonate | 26.25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 63 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid | 44.83 g, yield: 67.9% | N1(CCNCC1)C1=C(C=C(C=C1)CCC)S(=O)(=O)O | C13H20N2O3S
